US05621010
To a suspension of 2,6-diisopropyl-4-(2nitrostyryl)phenol (1.3 g, 4.0 mmol) in ethanol (20 ml) was added a catalytic amount of 10% palladium carbon and the suspension was subjected to catalytic reduction at 1-2.5 atms at room temperature for 7 hrs. After filtering the catalyst, distilling off the solvent gave 4-(2-aminophenethyl)-2,6-diisopropylphenol (1.0 g, 84%) as a viscous oil.

reactant | 2,6-diisopropyl-4-(2nitrostyryl)phenol | 4.0 mmol, 1.3 g | C(C)(C)C1=C(C(=CC(=C1)C=CC1=C(C=CC=C1)[N+](=O)[O-])C(C)C)O | C20H23NO3
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium carbon | [C].[Pd]
product | 4-(2-aminophenethyl)-2,6-diisopropylphenol | 1.0 g, 84% | NC1=C(CCC2=CC(=C(C(=C2)C(C)C)O)C(C)C)C=CC=C1 | C20H27NO
